US08633312B2
(R)-8-(2,4-Difluorophenylamino)-1-(2,3-dihydroxypropoxy)-10,11-dihydrodibenzo-[a,d]cyclohepten-5-one (11f)
For the synthesis of the title compound, 0.10 g (0.215 mmol) of (S)-8-(2,4-difluorophenylamino)-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one and 0.0054 g (0.0284 mmol) of p-toluenesulfonic acid monohydrate in 6 ml of methanol and 1.5 ml of water are reacted by method N. Yield: 88%;

reactant | (S)-8-(2,4-difluorophenylamino)-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 0.215 mmol, 0.10 g | FC1=C(C=CC(=C1)F)NC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OC[C@@H]3OC(OC3)(C)C)C1 | C27H25F2NO4
reactant | p-toluenesulfonic acid monohydrate | 0.0284 mmol, 0.0054 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 6 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | (R)-8-(2,4-Difluorophenylamino)-1-(2,3-dihydroxypropoxy)-10,11-dihydrodibenzo-[a,d]cyclohepten-5-one | Yield: 88% | FC1=C(C=CC(=C1)F)NC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OC[C@@H](CO)O)C1 | C24H21F2NO4
